US05932742
Synthesis of 4-phenyl-1,3-dihydro-2-imidazolone
2-Aminoacetophenone (5.6 g, 32.65 mmol) was dissolved in 200 ml of water in a three necked flask equipped with a thermometer and was heated up to 70° C. Potassium cyanate (2.9 g, 35.92 mmol) was added in several portions at 70° C. while the pH of the reaction solution was maintained in the range of 1 to 3 by the continuous addition of conc. HCl. After the addition of potassium cyanate was completed, the reaction mixture was stirred at 70° C. for 4 hours and left at room temperature overnight. The brownish precipitate thus formed was collected by filtration and dried to obtain 3.7 g of the title compound.

reactant | 2-Aminoacetophenone | 32.65 mmol, 5.6 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | Potassium cyanate | 35.92 mmol, 2.9 g | [O-]C#N.[K+]
reactant | HCl | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 4-phenyl-1,3-dihydro-2-imidazolone | 3.7 g, yield: 72% | C1(=CC=CC=C1)C=1NC(NC1)=O | C9H8N2O
